US07166635B2
6-HYDROXY-1-PHENYL-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE:
A mixture of 6-hydroxy-1-phenyl-1H-indole-2,3-dione (13 mg, 0.054 mmol) and 3-(trifluoromethyl)aniline (160 mg, 1 mmol) in CH2Cl2 (1 mL) and acetic acid (1 drop) was heated at 140° C. The crude product was purified preparative TLC [Eluent: EtOAc/hexane (2:3)], giving the desired product (3.5 mg, 17%).

reactant | 6-hydroxy-1-phenyl-1H-indole-2,3-dione | 0.054 mmol, 13 mg | OC1=CC=C2C(C(N(C2=C1)C1=CC=CC=C1)=O)=O | C14H9NO3
reactant | 3-(trifluoromethyl)aniline | 1 mmol, 160 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 6-HYDROXY-1-PHENYL-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE | 3.5 mg, 17% | OC1=CC=C2C(C(N(C2=C1)C1=CC=CC=C1)=O)=NC1=CC(=CC=C1)C(F)(F)F | C21H13F3N2O2
